US06001855
13.9 ml of ethyl bromopyruvate are added to a solution of 11.81 g of 2-imino-4-thiobiuret (Aldrich) in 100 ml of ethanol and the reaction mixture is heated under reflux for 3 hours (J. Med. Chem. 34, 914-918 (1991)). Subsequently, the mixture is cooled to room temperature and the reaction product is precipitated by the addition of 550 ml of ethyl acetate and filtered off. There are obtained 14.6 g of yellowish ethyl 2-guanidino-thiazole-4-carboxylate hydrobromide. MS: 214 (M)+.

reactant | ethyl bromopyruvate | 13.9 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2-imino-4-thiobiuret | 11.81 g | C(=NC(=S)N)(N)N | C2H6N4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-guanidino-thiazole-4-carboxylate hydrobromide | 14.6 g | Br.N(C(=N)N)C=1SC=C(N1)C(=O)OCC | InChI=1S/C7H10N4O2S.BrH/c1-2-13-5(12)4-3-14-7(10-4)11-6(8)9;/h3H,2H2,1H3,(H4,8,9,10,11);1H
